US05837673
5-[3'-(t-Butyidimethylsilyloxy)propyloxy]-2-nitrobenzaldehyde (5.80 g) is dissolved in dry THF (35 ml), and thereto is added with stirring vinyl-magnesium bromide (1.7 equivalent) in THF solution in a dry ice-acetone bath. The mixture is stirred for two hours, and thereto is added 5% hydrochloric acid (30 ml). The mixture is stirred at room temperature, extracted with ethyl acetate, and purified by silica gel column chromatography to give 1-{5'-[3"-(t-butyldimethylsilyloxy)propyloxy]-2'-nitrophenyl}-2-propen-1-ol (5.02 g).

reactant | 5-[3'-(t-Butyidimethylsilyloxy)propyloxy]-2-nitrobenzaldehyde | 5.80 g | [Si](C)(C)(C(C)(C)C)OCCCOC=1C=CC(=C(C=O)C1)[N+](=O)[O-] | C16H25NO5Si
reactant | vinyl-magnesium bromide | 1.7 equivalent | C(=C)[Mg]Br
reactant | hydrochloric acid | 30 ml | Cl | ClH
solvent | THF | 35 ml | C1CCOC1 | C4H8O
product | 1-{5'-[3"-(t-butyldimethylsilyloxy)propyloxy]-2'-nitrophenyl}-2-propen-1-ol | 5.02 g, Yield: 80% | [Si](C)(C)(C(C)(C)C)OCCCOC=1C=CC(=C(C1)C(C=C)O)[N+](=O)[O-] | C18H29NO5Si
